US07528147B2
A solution of 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol (0.45 g; 1.006 mmol) in solution in dimethylformamide (5 ml) is placed in a 50 ml round-bottomed flask rendered inert with argon, and sodium hydride (0.06 g; 2.01 mmol) is then added. The reaction mixture becomes dark in color and 1-bromo-3-chloropropane (0.199 ml, 2.01 mmol) is added. The reaction mixture is agitated for 30 minutes at 20° C. The reaction mixture is diluted with dichloromethane (50 ml) and water (100 ml), separated by settling out, and extracted with dichloromethane (2×50 ml). The organic extracts are combined, dried over magnesium sulfate, filtered and evaporated under reduced pressure, resulting in an oil. The oil is taken up in diisopropyl ether (10 ml) and then triturated, discarding crystals. After filtration, washing with diisopropyl ether and drying under reduced pressure, 2-[6-(3-chloropropoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is isolated in the form of ochre-colored crystals (0.415 g; 79%), the characteristics of which are as follows:

reactant | 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol | 1.006 mmol, 0.45 g | COC=1C=C2C(=CN(C2=CC1O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
reactant | sodium hydride | 2.01 mmol, 0.06 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 2.01 mmol, 0.199 ml | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
product | 2-[6-(3-chloropropoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | ClCCCOC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C27H26ClN3O4S
